US06177452B1
Bromine(21.1 g) was added dropwise to a dichloromethane solution (200 ml) of ethyl 6-(4-chlorobenzoyl)hexanoate (37.3 g) at room temperature. After stirring for 30 minutes, the reaction mixture was washed with sodium hydrogensulfite, saturated sodium bicarbonate and water in turn. The dichloromethane layer was dried(MgSO4). The solvent was evaporated to give ethyl 6-bromo-6-(4-chlorobenzoyl)hexanoate(47.6 g, quant.) as an oily substance.

reactant | Bromine | 21.1 g | BrBr | Br2
reactant | ethyl 6-(4-chlorobenzoyl)hexanoate | 37.3 g | ClC1=CC=C(C(=O)CCCCCC(=O)OCC)C=C1 | C15H19ClO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | ethyl 6-bromo-6-(4-chlorobenzoyl)hexanoate | 47.6 g | BrC(CCCCC(=O)OCC)C(C1=CC=C(C=C1)Cl)=O | C15H18BrClO3
